US05571810
A mixture of ethyl 5-[4-(N-formylmethylamino)phenyl]-4-[4-(methylsulfonyl)phenyl]thiophene-2-carboxylate (0.34 g) and sodium methoxide (0.13 g) in formamide (2 ml) was stirred at 100° C. for 2.5 hours. The mixture was poured into ice-water and the precipitates were collected to give 5-[4-(N-formylmethylamino)phenyl]-4-[4-(methylsulfonyl)phenyl]thiophene-3-carboxamide (0.3 g).

reactant | ethyl 5-[4-(N-formylmethylamino)phenyl]-4-[4-(methylsulfonyl)phenyl]thiophene-2-carboxylate | 0.34 g | C(=O)CNC1=CC=C(C=C1)C1=C(C=C(S1)C(=O)OCC)C1=CC=C(C=C1)S(=O)(=O)C | C22H21NO5S2
reactant | sodium methoxide | 0.13 g | C[O-].[Na+]
reactant | formamide | 2 ml | C(=O)N | CH3NO
product | 5-[4-(N-formylmethylamino)phenyl]-4-[4-(methylsulfonyl)phenyl]thiophene-3-carboxamide | 0.3 g | C(=O)CNC1=CC=C(C=C1)C1=C(C(=CS1)C(=O)N)C1=CC=C(C=C1)S(=O)(=O)C | C20H18N2O4S2
